### PR TITLE
Erdős Problem 89

### LINKED ISSUE #322: Erdős Problem 89: Set in R² with many distinct distances
### What is the conjecture
    
https://www.erdosproblems.com/89

  Does every set of $n$ distinct points in $\mathbb{R}^2$ determine $\gg n/\sqrt{\log n}$ many distinct distances?

### PR DESCRIPTION
**Pull request by mo271**
fixes #322

### CODE REVIEW

File: FormalConjectures/ErdosProblems/89.lean [hunk 1]
```diff
@@ -0,0 +1,91 @@
...
+  (Finset.image (fun (pair : ℝ² × ℝ²) => dist pair.1 pair.2) (Finset.product points points)).card
+
+/--
+The minimum number of distinct distances guaranteed for any set of $n$ points.
+-/
+noncomputable def minimalDistinctDistances (n : ℕ) : ℕ :=
+  sInf {(distinctDistances points : ℝ) | (points : Finset ℝ²) (_ : points.card = n)}
+
+/--
+Does every set of $n$ distinct points in $\mathbb{R}^2$ determine $/gg \frac{n}{\sqrt{\log n}}$
```
Comment (alreadydone) [inline FormalConjectures/ErdosProblems/89.lean]:
```suggestion
Does every set of $n$ distinct points in $\mathbb{R}^2$ determine $\gg \frac{n}{\sqrt{\log n}}$
```

File: FormalConjectures/ErdosProblems/89.lean [hunk 2]
```diff
@@ -0,0 +1,91 @@
...
+many distinct distances?
+-/
+@[category research open, AMS 52]
+theorem erdos_89 :
+  (fun (n : ℕ) => n/(n : ℝ).log.sqrt) =O[atTop] (fun n => (minimalDistinctDistances n : ℝ)) := by
```
Comment (alreadydone) [inline FormalConjectures/ErdosProblems/89.lean]:
```suggestion
    (fun (n : ℕ) => n/(n : ℝ).log.sqrt) =O[atTop] (fun n => (minimalDistinctDistances n : ℝ)) := by
```

File: FormalConjectures/ErdosProblems/89.lean [hunk 3]
```diff
@@ -0,0 +1,91 @@
...
+  sorry
+
+/--
+Guth and Katz [GuKa15] proved that there are always $\gg \frac{n}{\log n}$ many distinct distances.
+-/
+@[category research solved, AMS 52]
+theorem erdos_89.variants.n_dvd_log_n :
+  (fun (n : ℕ) => n/(n : ℝ).log) =O[atTop] (fun n => (minimalDistinctDistances n : ℝ)) := by
```
Comment (alreadydone) [inline FormalConjectures/ErdosProblems/89.lean]:
```suggestion
    (fun (n : ℕ) => n/(n : ℝ).log) =O[atTop] (fun n => (minimalDistinctDistances n : ℝ)) := by
```

File: FormalConjectures/ErdosProblems/89.lean [hunk 4]
```diff
@@ -0,0 +1,91 @@
...
+  intro l hl
+  refine le_trans ?_ <| hx l (by omega)
+  have := hm l (by omega)
+  refine (div_le_div_iff_of_pos_left ?_ (by positivity) (by positivity)).mpr <|
+    abs_le_abs_of_nonneg (by positivity) <| Real.sqrt_le_iff.mpr ⟨by linarith, by nlinarith⟩
+  by_contra hx
+  simp only [Nat.abs_cast, Nat.cast_pos, not_lt, nonpos_iff_eq_zero] at hx
+  rw [hx] at this
+  simp only [CharP.cast_eq_zero, Real.log_zero] at this
+  linarith
```
Comment (alreadydone) [inline FormalConjectures/ErdosProblems/89.lean]: indentation & golf
```suggestion
    type_of% erdos_89.variants.n_dvd_log_n := by
  refine .trans ?_ h
  have := (Asymptotics.isLittleO_one_left_iff ℝ).mpr <| tendsto_norm_atTop_atTop.comp <| 
    (tendsto_rpow_atTop (show 0 < 1/2 by norm_num)).comp
    (Real.tendsto_log_atTop.comp tendsto_natCast_atTop_atTop)
  convert (Asymptotics.isBigO_refl (fun n : ℕ ↦ n/(n : ℝ).log) _).mul this.isBigO using 1
  · simp
  · simp_rw [Function.comp, div_mul, ← Real.sqrt_eq_rpow, Real.div_sqrt]
```

**Review by alreadydone — APPROVED** [review]
Thanks 🎉

File: FormalConjectures/ErdosProblems/89.lean [hunk 5]
```diff
@@ -0,0 +1,79 @@
...
+Does every set of $n$ distinct points in $\mathbb{R}^2$ determine $\gg \frac{n}{\sqrt{\log n}}$
+many distinct distances?
+-/
+@[category research open, AMS 52]
+theorem erdos_89 :
+    (fun (n : ℕ) => n/(n : ℝ).log.sqrt) =O[atTop] (fun n => (minimalDistinctDistances n : ℝ)) := by
+  sorry
+
+/--
+Guth and Katz [GuKa15] proved that there are always $\gg \frac{n}{\log n}$ many distinct distances.
```
Comment (alreadydone) [inline FormalConjectures/ErdosProblems/89.lean:53]: Add the title of this reference to the module docstring? I don't think we have a references.bib in this repo ...

Comment (mo271) [reply FormalConjectures/ErdosProblems/89.lean:53]: Thanks added the reference!

yeah, we currently don't have unified reference, see #541

File: FormalConjectures/ErdosProblems/89.lean [hunk 6]
```diff
@@ -0,0 +1,81 @@
...
+open scoped EuclideanGeometry
+
+namespace Erdos89
+
+/--
+Given a finite set of points in the plane, we define the number of distinct distances between pairs
+of points.
+-/
+noncomputable def distinctDistances (points : Finset ℝ²) : ℕ :=
+  (Finset.image (fun (pair : ℝ² × ℝ²) => dist pair.1 pair.2) (Finset.product points points)).card
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/89.lean]:
```suggestion
  ((points ×ˢ points).image (fun (pair : ℝ² × ℝ²) => dist pair.1 pair.2)).card
```
